US04211711
The autoclave described in Example 1 is filled with 106.6 g of 3-methoxyphthalide, 400 ml of methanol and 15 g of RCH 45/20 cobalt catalyst (commercial product of Hoechst AG). After the addition of hydrogen to a pressure 100 bars, the autoclave is heated at 120° C., the pressure increasing to about 113 bars. After a temperature of 120° C. is reached, the pressure drops to 100 bars and is brought back up to 120 bars by another injection of hydrogen. After 2 hours of reaction at 120° C., the pressure has dropped again to 100 bars; the mixture is cooled, relieved of pressure, and filtered of catalyst. After withdrawal of the solvent, 86.2 g of phthalide (99% of the theory) is obtained having a melting point of 72°-73° C. (GC analysis 99.2% phthalide).

reactant | 3-methoxyphthalide | 106.6 g | COC1OC(=O)C2=CC=CC=C12 | C9H8O3
reactant | hydrogen | [H][H] | H2
catalyst | cobalt | [Co] | Co
solvent | methanol | 400 ml | CO | CH4O
product | phthalide | 86.2 g | C1(=O)OCC2=CC=CC=C12 | C8H6O2
